US07196100B2
4-(4-Cyano-phenoxy)-piperidine-1-carboxylic acid tert-butyl ester
Add a solution of N-Boc-4-hydroxypiperidine (3.0 g, 14.9 mmol) in DMF (5 mL) to a suspension of sodium hydride (894 mg, 22.4 mmol) in DMF (17 mL). Stir the reaction mixture while heating at 50° C. for 45 min. Then add a solution of 4-fluoro-benzonitrile (2.16 g, 17.9 mmol) in DMF (5 mL). Stir and heat at 50° C. for 2 h. Let cool to room temperature and quench with water (0.5 mL). Evaporate DMF. Redissolved the resulting residue in EtOAc/hexanes (2/1, 20 mL) and wash with water (3×15 mL). Dry the organic layer over magnesium sulfate, filter and concentrate. Purify by chromatography (EtOAc/hexanes 20% and EtOAc/hexanes 10%) to yield the title compound (2.32 g, 52%).

reactant | N-Boc-4-hydroxypiperidine | 14.9 mmol, 3.0 g | C(=O)(OC(C)(C)C)N1CCC(CC1)O | C10H19NO3
reactant | sodium hydride | 22.4 mmol, 894 mg | [H-].[Na+]
reactant | 4-fluoro-benzonitrile | 17.9 mmol, 2.16 g | FC1=CC=C(C#N)C=C1 | C7H4FN
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 17 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 4-(4-Cyano-phenoxy)-piperidine-1-carboxylic acid tert-butyl ester | 2.32 g, 52% | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC=C(C=C1)C#N | C17H22N2O3
